US09446034B2
5-[4-(2-Hydroxyethyl)-1-piperazinyl]-N-methyl-2-nitrobenzamide 3
A solution of 5-fluoro-N-methyl-2-nitrobenzamide, 1-(2-hydroxyethyl)piperazine, and Hunig's base in 20 mL of DMF was stirred at room temperature over the weekend. The resulting mixture was rotavaped to dryness, and the residue was purified by flash column SF40-150 at 2%-10% MeOH/CH2Cl2. Product came out at 7% MeOH/CH2Cl2. MS(ES) m/e 309 [M+H].

reactant | 5-fluoro-N-methyl-2-nitrobenzamide | FC=1C=CC(=C(C(=O)NC)C1)[N+](=O)[O-] | C8H7FN2O3
reactant | 1-(2-hydroxyethyl)piperazine | OCCN1CCNCC1 | C6H14N2O
reactant | Hunig's base | CCN(C(C)C)C(C)C | C8H19N
solvent | DMF | 20 mL | CN(C)C=O | C3H7NO
product | 5-[4-(2-Hydroxyethyl)-1-piperazinyl]-N-methyl-2-nitrobenzamide | OCCN1CCN(CC1)C=1C=CC(=C(C(=O)NC)C1)[N+](=O)[O-] | C14H20N4O4
